US04906621
A solution of 21.7 g of 4-(tert-butyl-dimethylsilyloxymethyl)-2-cyanopyridine in 220 ml anhydrous ethanol containing 0.2 g of sodium is stirred at room temperature for 18 hours, cooled to 0° and 22 ml 6N hydrochloric acid is then added. The solution is stirred at room temperature for 18 hours cooled to 0°, 7.5 ml 6N sodium hydroxide added followed by 20 ml saturated aqueous sodium carbonate. Extraction with methylene chloride, then drying, filtering and concentrating the extract yields an oil which crystallizes from ether to yield ethyl 4-(hydroxymethyl)-pyridine-2-carboxylate.

reactant | 4-(tert-butyl-dimethylsilyloxymethyl)-2-cyanopyridine | 21.7 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC=C1)C#N | C13H20N2OSi
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 6N, 22 ml | Cl | ClH
reactant | sodium hydroxide | 6N, 7.5 ml | [OH-].[Na+]
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 220 ml, 0.2 g | C(C)O | C2H6O
product | ethyl 4-(hydroxymethyl)-pyridine-2-carboxylate | OCC1=CC(=NC=C1)C(=O)OCC | C9H11NO3
